US07842686B2
1′,3′-Dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione
To a solution of 2-indanone (67.8 mmol, 9 g) and ammonium carbonate (684 mmol, 66 g) in ethanol (150 ml) and water (150 ml) was added NaCN (201.9 mmol, 9.9 g) and the reaction mixture was stirred at 70° C. for 3 h. The reaction mixture was cooled to 0° C. and the precipitated product was filtered, washed with water (4×) and desiccated. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=203; tR=1.78.

reactant | 2-indanone | 67.8 mmol, 9 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | ammonium carbonate | 684 mmol, 66 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | NaCN | 201.9 mmol, 9.9 g | [C-]#N.[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 1′,3′-Dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione | C1C2(CC3=CC=CC=C13)NC(NC2=O)=O | C11H10N2O2
